### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): small `0`-hypercovers

### PR DESCRIPTION
**Pull request by chrisflav**
A `w`-`0`-hypercover `E` is `w'`-small if there exists an indexing type `ι` in `Type w'` and a
restriction map `ι → E.I₀` such that the restriction of `E` to `ι` is still covering.

This is weaker than `E.I₀` being `w'`-small. For example, every Zariski cover of `X : Scheme.{u}` is `u`-small,
because `X` itself suffices as indexing type.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/MorphismProperty.lean [hunk 1]
```diff
@@ -52,6 +53,12 @@ instance [P.IsStableUnderComposition] : P.precoverage.IsStableUnderComposition w
     intro ⟨i⟩
     exact P.comp_mem _ _ (hg _ ⟨i.2⟩) (hf ⟨i.1⟩)
 
+instance : Precoverage.Small P.precoverage where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/MorphismProperty.lean]: For readibility, could you add explicit universes?

File: Mathlib/CategoryTheory/Sites/Hypercover/Zero.lean [hunk 2]
```diff
@@ -424,6 +477,12 @@ lemma mem_iff_exists_zeroHypercover {X : C} {R : Presieve X} :
   obtain ⟨ι, Y, f, rfl⟩ := R.exists_eq_ofArrows
   use ⟨⟨ι, Y, f⟩, hR⟩
 
+/-- A precoverage is `w'`-`w`-small, if every `w`-`0`-hypercover is `w'`-small. -/
+class Small (J : Precoverage C) : Prop where
+  zeroHypercoverSmall : ∀ {S : C} (E : ZeroHypercover.{w} J S), ZeroHypercover.Small.{w'} E
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Hypercover/Zero.lean]: Do we actually need a version with two universes? Would not it be sufficient to require that the presieves in `J` are `w`-small?

Comment (chrisflav) [reply Mathlib/CategoryTheory/Sites/Hypercover/Zero.lean]: Ah you mean: replace `w` in this definition by `max u v`? Yes this is much better, thanks!

**Comment by chrisflav** [comment]
Thanks for the suggestions @joelriou!

**Comment by joelriou** [comment]
Thanks!

bors merge
